US07632832B2
Step A. Methyl O-[tert-butyl(diphenyl)silyl]serinate
Imidazole (2.82 g, 41.43 mmol) and tert-butyldiphenylchlorosilane (3.23 mL, 12.43 mmol) was added to a solution of DL-serine methyl ester hydrochloride (1.41 g, 11.84 mmol) in dimethylformamide (6 mL). After 16 h, the mixture was concentrated and partitioned between ethyl acetate and saturated sodium bicarbonate solution. The organic layer was dried over sodium sulfate, filtered, and concentrated. Purification by silica gel chromatography (100% dichloromethane=10% methanol {1% ammonium hydroxide}/dichloromethane) gave the title compound. MS 358.22 (M+1)

reactant | Imidazole | 41.43 mmol, 2.82 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylchlorosilane | 12.43 mmol, 3.23 mL | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | DL-serine methyl ester hydrochloride | 11.84 mmol, 1.41 g | Cl.COC(C(N)CO)=O
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | Methyl O-[tert-butyl(diphenyl)silyl]serinate | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H](N)C(=O)OC | C20H27NO3Si
